US05637622
Preparation of N-(3-Ethylphenyl)-N-methyl-N'-ethyl-N'-(1-naphthyl)guanidine (Compound XXII)
In a 5 ml round bottom flask was placed N-(3-ethylphenyl)-N-methylcyanamide (626 mg, 3.91 mmol), N-ethyl-N-(1naphthyl)amine hydrochloride (859 mg, 4.15 mmol) and a stir bar. The flask was evacuated via aspirator and flushed with N2. This was immediately placed in a preheated 160° C. oil bath and allowed to stir under N2 for 14 h. The resultant brown glass was dissolved in methanol (6 ml) and diluted with hot distilled water (20 ml). This solution was basified with 0.1N NaOH (25 ml) and extracted with CHCl3 (5×20 ml) to yield a brownish green oil (920 mg). A TLC of this oil showed a mixture of reactants and product. Reactants were eluted by column chromatography with benzene. The product was eluted with benzene/EtOH 20:1 (TLC Rf =0.064, CHCl3 :EtOH, 1:1) to afford a pale greenish viscous oil, 460 mg (35.5%). IR (neat) 3484, 3394 (--NH), 1635 (--C=NH). 1H-NMR (CDCl3) δ 1.00 (t, 3H, J=7.5), 1.14 (t, 3H, J=6.6), 2.32 (q, 2H, J=7.5), 2.91 (s, 3H), 3.72 (q, 2H, J=6.6), 5.62 (s, 1H), 6.34-7.73 (m, 11H, H-aromat). 13C-NMR (CDCl3) CN3, 162.2; Ar, 145.9, 144.0, 140.3, 133.7, 130.3, 127.9, 127.5, 125.5, 125.1, 125.0, 124.5, 124.4, 122.7, 122.6, 122.4, 120.4; NCH2, 46.2; NCH3, 39.1; CH2, 27.9; CH3, 14.8; CH3, 12.5. Mass Spec. m/e calcd for C22H25N3, 331.2048, Found, 331.2046.

reactant | N-(3-ethylphenyl)-N-methylcyanamide | 3.91 mmol, 626 mg | C(C)C=1C=C(C=CC1)N(C#N)C | C10H12N2
reactant | N-ethyl-N-(1naphthyl)amine hydrochloride | 4.15 mmol, 859 mg | Cl.C(C)NC1=CC=CC2=CC=CC=C12
product | N-(3-Ethylphenyl)-N-methyl-N'-ethyl-N'-(1-naphthyl)guanidine | 920 mg | C(C)C=1C=C(C=CC1)N(C(=N)N(C1=CC=CC2=CC=CC=C12)CC)C | C22H25N3
